US08937150B2
1-(2,6-difluoro-4-nitrophenyl)-4-(3,4-difluorophenyl)-1,2,3,6-tetrahydropyridine
A mixture of 1-(2,6-difluoro-4-nitrophenyl)-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate (1.18 g, 3.04 mmol), 2-(3,4-difluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.02 g, 4.25 mmol), lithium chloride (0.387 g, 9.12 mmol) and a 2.0 M aq. solution of sodium carbonate (4.56 mL, 9.12 mmol) in anhydrous DME (15 mL) was vigorously stirred while bubbling with N2 gas for 20 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.176 g, 0.152 mmol) was added, and the resulting mixture was degassed for 5 minutes more. The reaction flask was equipped with a condenser and placed in 100° C. oil bath. The dark mixture was stirred at 100° C. under a dry N2 atmosphere for 16 hours, and was then cooled to room temperature and partitioned between water (50 mL) and EtOAc (2×50 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo, and the crude product was purified by column chromatography on silica gel using a solvent gradient of 0-40% EtOAc in hexanes to provide a yellow oil that solidified on standing. The solid was triturated with Et2O and hexanes, filtered and dried to provide the title compound (0.67 g, 63%).

reactant | 1-(2,6-difluoro-4-nitrophenyl)-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | 3.04 mmol, 1.18 g | FC(S(=O)(=O)OC=1CCN(CC1)C1=C(C=C(C=C1F)[N+](=O)[O-])F)(F)F | C12H9F5N2O5S
reactant | 2-(3,4-difluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 4.25 mmol, 1.02 g | FC=1C=C(C=CC1F)B1OC(C(O1)(C)C)(C)C | C12H15BF2O2
reactant | lithium chloride | 9.12 mmol, 0.387 g | [Cl-].[Li+]
reactant | sodium carbonate | 9.12 mmol, 4.56 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 15 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.152 mmol, 0.176 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,6-difluoro-4-nitrophenyl)-4-(3,4-difluorophenyl)-1,2,3,6-tetrahydropyridine | 0.67 g, 63% | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCC(=CC1)C1=CC(=C(C=C1)F)F | C17H12F4N2O2
